US07335658B2
SYNTHESIS OF 6-[2,5-DIMETHYL-4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PENTYLAMIDE
To a mixture of 6-chloropyridazine-3-carboxylic acid pentylamide (304 mg, 1.00 mmol) in 2-propanol (12 mL) was added 2,5-dimethylpiperazine (1.37 g, 12.0 mmol). The reaction mixture was refluxed for 2 days. Another 0.25 g of 2,5-dimethylpiperazine and 1.0 mL of triethylamine were added to the reaction mixture and heating was continued for another 24 hours. After the reaction mixture was cooled to ambient temperature and the solvent was removed by rotary evaporator. To the dichloromethane solution of the crude material (20 mL) was added the solution of 2-trifluoromethylbenzoyl chloride (0.63 g, 3.00 mmol) in dichloromethane (20 mL) and the reaction mixture was stirred at ambient temperature for 16 hours. The organic layer was diluted with dichloromethane (50 mL) and then washed with 10% HCl, dried over MgSO4. After filtration, the filtrate was concentrated in vacuo. The crude material was purified by column chromatography eluting with ethyl acetate (100%) to afford 300 mg (31% yield) of the product as a colourless solid. 1H NMR (300 MHz, CDCl3) δ 7.74-7.43, 7.36-7.24, 5.17-5.04, 4.91-4.79, 4.52, 4.52, 3.68-3.57, 3.54-3.44, 3.39-3.11, 2.93, 2.85-2.71, 1.36-1.31, 1.27-1.15, 1.23-1.05.

reactant | 6-chloropyridazine-3-carboxylic acid pentylamide | 1.00 mmol, 304 mg | C(CCCC)NC(=O)C=1N=NC(=CC1)Cl | C10H14ClN3O
reactant | 2,5-dimethylpiperazine | 12.0 mmol, 1.37 g | CC1NCC(NC1)C | C6H14N2
reactant | 2,5-dimethylpiperazine | 0.25 g | CC1NCC(NC1)C | C6H14N2
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-trifluoromethylbenzoyl chloride | 3.00 mmol, 0.63 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | 2-propanol | 12 mL | CC(C)O | C3H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-[2,5-DIMETHYL-4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PENTYLAMIDE | 300 mg, 31% yield | C(CCCC)NC(=O)C=1N=NC(=CC1)N1C(CN(C(C1)C)C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C24H30F3N5O2
